US09079911B2
To a heterogeneous mixture of urea (641 mg, 10.67 mmol) and diethylfluoromalonate (1.96 g, 10.67 mmol) in EtOH (11 mL) was added 2.68 M NaOEt in EtOH (7.96 mL, 21.34 mmol). The mixture was heated at reflux for 60 h and then allowed to cool to room temperature. The mixture was filtered and the cake was then dissolved in warm water and the resulting solution was acidified with concentrated HCl to pH 2. The mixture was allowed to cool to room temperature and then cooled in an ice bath before filtering. The cake was washed with water and dried to afford 5-fluoropyrimidine-2,4,6-triol as a slightly off white solid (1.45 g, 93%).

reactant | urea | 10.67 mmol, 641 mg | NC(=O)N | CH4N2O
reactant | diethylfluoromalonate | 10.67 mmol, 1.96 g | C(C)OC(C(C(=O)OCC)F)=O | C7H11FO4
reactant | NaOEt | 2.68 M | CC[O-].[Na+]
solvent | EtOH | 11 mL | CCO | C2H6O
solvent | EtOH | 21.34 mmol, 7.96 mL | CCO | C2H6O
product | 5-fluoropyrimidine-2,4,6-triol | FC=1C(=NC(=NC1O)O)O | C4H3FN2O3
